data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4927,"CC(=O)[O:1][C:2](C)([N+]1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7115,"C[C+:1]=[C:2]1CC(CCC2=CC=CC=C2)[O+]([Ti-]([Cl])([Cl])([Cl])[Cl])[Si-:3]1(C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,9715,"CC1(C)CCC[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9129,"Br[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,7450,"CC(C)=O.CC1=CC=C(C2CCC(=[O+:1][H:2])CC2)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OCCO.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9316,"C[P:1](C)C.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,6659,"CC(=O)[O-:1].COC(=O)N([P+](C)(C)C)[N:2]([H:3])[C:4](OC)=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3011,"CC[N+:1](CC)=[C:2](C)[CH2:3][H:4].CC[NH:5]CC|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,421,"C1=CC=[N+:1]([H:2])C=C1.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(=O)CCC(C(C)C=O)C(C)(O)[O:3]CCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5506,"CC[B-:1](CC)(CC)[H:2].[Li][O+:3]=[CH:4]CCC|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4985,"C1CC[N:1]([CH:2]=[CH2:3])CC1.C[CH2:4][Br:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7446,"C1=CC=C(CCCC[CH:1]=[CH2:2])C=C1.[H:3][F:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3682,"C=C[C:1](NCC)([OH:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8363,"COCC1C(O)C2[CH:1](C1CC([O][Na])=[O:2])[I+:3]2.[I-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4177,"C1CC[NH:1]C1.C=C1CCCC2CC(O)([N+:2]3([H:3])CCCC3)CCC12|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3938,"CC(C)(C)[C+:1]1C=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8656,"CC(C)CCCC(C)C1CCC2C3CCC4C[C:1](=[O:2])CCC4(C)C3CCC12C.[I][Mg:3][CH3:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1768,"CC(=O)[O-].C[N:1]1CCC[CH:2]([Cl:3])C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10317,"C[O+:1](C)[Na:2]|((2, 1), 1)"
train,pmechdb_split_0,0,5842,"CC(=O)ON1C2(C)CCC1(C)C[C+:1]=NC2.CC1=CC(C)=C(S(=O)(=O)[O-])C(C)=C1.CCN(CC)CC.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,7601,"CO[P:1](Cl)OC.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3732,"C(CC[CH2:1][Br:2])C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8872,"COC(=O)CCC(C(C)=O)[C:1](C)([H:2])[CH:3]=[NH2+:4].O.O=C([O-])O.[NH3:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6710,"CC1(C)C2CCC13C1=C(C=C(Cl)C=C1)[NH+:1]([H:2])C3(C)C2.C[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4435,"COC(=O)C12CC=C(C)C(Br)(CCC1)[C:1]2=[O:2].COP(OC)O[CH2:3][Li:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10424,"C#CC[Si](C)(C)C.[Cl][In-]([Cl])([Cl])[OH+:1][CH:2](C1=CC=CC=C1)C1=CC=CC=C1|((2, 1), 1)"
train,pmechdb_split_0,0,5317,"CC12CCC(=[O:1])CC1CCC2=O.O=C(O)C(=O)[O:2][H:3].OCCO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1431,"C[CH:1]=[CH2:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3729,"O=S(=O)(O)C1=C[CH+:1][C:2](Br)([H:3])O1.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1621,"C=CC(Cl)[B:1]1OC2CC3CC(C3(C)C)C2(C)O1.C[Si](C)(C)[CH2:2][Mg:3][Br].[Cl-].[Li+]|((3, 2), 1)"
train,pmechdb_split_0,0,202,"CCCC[B-:1](CCCC)([O+]=C(C)CC)[Cl:2].CCN(CC)CC|((1, 2), 2)"
train,pmechdb_split_0,0,326,"CCC(O)C(O)=[O+:1][H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7723,"CCO[C+:1]1C=C[C:2](C(C)C)([H:3])[CH:4]=[CH:5]1.[F-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,5832,"CCN[C:1](=[CH:2]COCC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3480,"CC(=O)C1=C(NC(=O)C(CC2=CC=CC=C2)[NH2:1])C=CC=C1.O=C(C(F)(F)F)[O:2][H:3].O=C=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5011,"CC(C)[O][Al-:1]([O]C(C)C)([O]C1CCC2(O)C(=CCC3C4CCC(=O)C4(C)CCC32)C1)[OH+:2]C(C)C.CN1CCC(=O)CC1|((1, 2), 2)"
train,pmechdb_split_0,0,8159,"CO[C:1](OC)=[NH+:2]C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6850,"CCCCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(CC(C)C)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5105,"CS(=O)(=O)[O:1][CH3:2].[SH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1465,"CN1C(=O)C2=CC=CN2C=C1CCC[NH:1]C1([O-])NNC(=O)C2=C1C=CC=C2.N[NH2+:2][H:3].O.[Cl-].[K+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2037,"CC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(C)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,1946,"C1COCCO1.CC(=O)C1=CC(F)=C(N2CC[N+:1](C([O-])(Cl)C3=C(F)C=CC([N+](=O)[O-])=C3)([H:2])CC2)C=C1.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5487,"C([CH:1]=[CH2:2])[CH2+:3].CC1=CC=C(S(=O)(=O)[O-])C=C1.N#N|((1, 2), 3)"
train,pmechdb_split_0,0,6951,"C1CCC2=[N+:1]([H:2])CCCN2CC1.CC1(C[O-:3])CC(C)(C)C2OC2C1=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6726,"CC(C)(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
